US06489314B1
(6S)-3-iodo-6-(6-quinolyl)-6-(triethylsilyloxy)-3-hexene
A suspension of propyltriphenylphosphonium iodide (8.2 gm) in 150 mL of tetrahydrofuran is treated with a 2.5 M solution of n-butyllithium (7.17 mL) at ambient temperature. The resulting red solution is transferred via cannula into a vigorously stirred solution of iodine (4.54 gm) in 150 mL of tetrahydrofuran cooled to −78° C. The resulting suspension is stirred for 5 minutes, then gradually warmed to −30° C. A 1.0 M solution of sodium hexamethyldisilazide (17.3 mL) is then added dropwise to form a red solution. A solution of (3S)-3-(triethylsilyloxy)-3-(6-quinolyl)propanal(1.9 gm) in 10 mL of tetrahydrofuran is then added dropwise, and stirring is continued at −30° C. for 30 minutes. The mixture is diluted with ether, filtered through a pad of Celite, and concentrated. The product is purified by flash chromatography on silica gel.

reactant | propyltriphenylphosphonium iodide | 8.2 gm | [I-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 7.17 mL | C(CCC)[Li]
reactant | iodine | 4.54 gm | II | I2
reactant | sodium hexamethyldisilazide | 17.3 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | (3S)-3-(triethylsilyloxy)-3-(6-quinolyl)propanal | 1.9 gm | C(C)[Si](O[C@@H](CC=O)C=1C=C2C=CC=NC2=CC1)(CC)CC | C18H25NO2Si
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (6S)-3-iodo-6-(6-quinolyl)-6-(triethylsilyloxy)-3-hexene | IC(CC)=CC[C@H](O[Si](CC)(CC)CC)C=1C=C2C=CC=NC2=CC1 | C21H30INOSi
